US08314092B2
Add phosphoryl chloride (1.47 mL, 2.43 g, 15.85 mmoles) to 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (1.117 g, 4.53 mmoles) in DCM (50 mL) and stir at room temperature over a weekend. Add ice water to the reaction mixture then add DCM, separate the aqueous layer and wash the DCM layer with water and sodium hydrogen carbonate solution. Dry the DCM solution with MgSO4, filter and evaporate the solvent in vacuo to give 7,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine (1.167 g).

reactant | phosphoryl chloride | 15.85 mmoles, 1.47 mL, 2.43 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 4.53 mmoles, 1.117 g | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C1 | C13H11ClN2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 7,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.167 g | ClC=1C=CC2=C(CN3C(C(=N2)Cl)=CC(=C3)C)C1 | C13H10Cl2N2
